US04913728
2-Bromo-4-methylthioaniline
A solution of 2-bromo-4-thiocyanoaniline (11.5 g., 0.05 mole) and sodium cyanide (1.23 g., 0.025 mole) in methanol (100 ml.) is stirred at room temperature overnight. Sodium cyanide (0.025 mole) is then added and the reaction heated at reflux 2 hours and then cooled (0°-5° C.). Methyl iodide is added and stirring continued. Thin layer chromatography shows one product spot. Product is recovered by extraction with methylene chloride, 8.4 g.

reactant | 2-bromo-4-thiocyanoaniline | 0.05 mole, 11.5 g | BrC1=C(N)C=CC(=C1)SC#N | C7H5BrN2S
reactant | sodium cyanide | 0.025 mole, 1.23 g | [C-]#N.[Na+]
reactant | Sodium cyanide | 0.025 mole | [C-]#N.[Na+]
reactant | Methyl iodide | CI | CH3I
solvent | methanol | 100 ml | CO | CH4O
product | 2-Bromo-4-methylthioaniline | BrC1=C(N)C=CC(=C1)SC | C7H8BrNS
